datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCC1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2CCC[C:11]2=[O+:12][Si:63](C)(C)C)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C([CH:20]=[O:21])C=C1.C[C:11](C1CC1)=[CH2:10]>>C[C+:11](C1CC1)[CH2:10][CH:20](C1=CC=CC=C1)[O-:21] 10,11=10,20;20,21=21"
C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.CC(C)(C)[O:92][C:61]([CH-:10][N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62]>>CC(C)(C)[O:92][C:61]([CH:10]([CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC2)CC[C:33]3=[CH:32]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC[C:45]3=[CH:46]1)CC2)[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62] 10=20
CCO[C:62]([CH2:61][NH2:10])=[O:63].Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CCO[C:62]([CH2:61][NH2+:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]1)=[O:63] 10=20
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.CC[O:72][C:61](/[C:10]1=[C:11](\[O-:12])CCCCCCCCCC1)=[O:62]>>CC[O:72][C:61]([C:10]1([CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[CH:51]=[CH:52][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)CCCCCCCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12"
"C1CCCCCCC[C:11](=[CH2:10])CCCCCC1.O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C+:11]2CCCCCCCCCCCCCC2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[C:63]([NH:12][C:11]1=[CH:10]CCC1)=[O:64]>>C[C:20](C)([CH:10]1CCC[C:11]1=[NH+:12][C:63](C)=[O:64])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12"
COC1=CC=CC=C1[P:10](C1=CC=CC=C1OC)C1=C(OC)C=CC=C1.C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>COC1=CC=CC=C1[P+:10](C1=CC=CC=C1OC)(C1=C(OC)C=CC=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34]([N:37](C)C)[CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]1 10=20
"C1CC2CC1[CH:10]=[CH:11]2.N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>N#C[C:20]1([CH:10]2C3CCC(C3)[CH+:11]2)[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C[Si:63]1(C)C[CH:11]([H:10])[CH2:62]1.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>C[Si:63]1(C)C[CH+:11][CH2:62]1.F[S:32]([CH-:21][CH:20](C1=CC=CC=C1)[H:10])(=[O:33])=[O:34] 10,11=10,20;20,21=21"
C1=CC=C(C2=CN(C[C@@H]3CCC[NH:10]3)N=N2)C=C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([NH+:10]2CCC[C@H]2CN2C=C(C3=CC=CC=C3)N=N2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C1[C:71](=[O:72])[N-:10][C:61](=[O:62])[O:82]1.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C1[C:71](=[O:72])[N:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:61](=[O:62])[O:82]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.C[N:12](C)[C:11](=[N:10]CC1=CC=CC=C1)[N:62](C)C>>C[N+:12](C)=[C:11]([N:10](CC1=CC=CC=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:45]=[CH:46]1)[N:62](C)C 10,11=10,20;12=11,12"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C)[C:24](=[O:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1.C[CH:11]=[CH2:10]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][CH+:11]C)[C:21]2=[CH:22][C:23](C)=[C:24]([O-:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
